US09085555B2
A. (2S,4S)-4-(2,2,2-Trichloro-ethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of (2S,4S)-1-tert-butyl 2-methyl 4-aminopyrrolidine-1,2-dicarboxylate (4.6 g, 10.7 mmol) in CH2Cl2 (100 mL) were added 2,2,2-trichloroethyl carbonochloridate (1.73 mL, 12.88 mmol) and DIPEA (2.81 mL, 16.1 mmol). The reaction mixture was stirred at RT for 2 h then was poured into water. The desired compound was extracted with EtOAc (2×100 mL), the organic phases were joined, washed with 1N HCl then brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1). MS (UPLC): 421 [M+H]+, 419 [M−H]−; tR (HPLC conditions f): 1.11 min.

reactant | (2S,4S)-1-tert-butyl 2-methyl 4-aminopyrrolidine-1,2-dicarboxylate | 10.7 mmol, 4.6 g | N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H20N2O4
reactant | 2,2,2-trichloroethyl carbonochloridate | 12.88 mmol, 1.73 mL | C(OCC(Cl)(Cl)Cl)(=O)Cl | C3H2Cl4O2
reactant | DIPEA | 16.1 mmol, 2.81 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-(2,2,2-Trichloro-ethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OC(C)(C)C | C14H21Cl3N2O6
